data/oMe_Silver.jsonl
{"reaction_id": "NR-133_1-c1ccc(OC)cc1_2-C(C)(C)C","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(C(C)(C)C)C(=O)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(C(C)(C)C)C(O)(c1ccc(OC)cc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(C)(C)C)=C([O-])(c1ccc(OC)cc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(C)(C)C)=C(O)(c1ccc(OC)cc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(C(C)(C)C)=C(O)(c1ccc(OC)cc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)(C)C)C(O)(c1ccc(OC)cc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
{"reaction_id": "NR-309_1-c1ccc(OC)cc1_2-CC(C)C_3-C(F)(F)F_4-C(C)(C)C_5-c1ccco1_6-OS(=O)(=O)C(F)(F)F_7-P(c1ccc(F)cc1)c2ccc(F)cc2","level": "medium","name": "Trost Asymmetric Allylation Alkylation","reactants_smiles": ["c1ccc(OC)cc1C(CC(C)C)=C(C(F)(F)F)C(C(C)(C)C)(c1ccco1)(OS(=O)(=O)C(F)(F)F)","COC(=O)CC(=O)OC","[Pd]"],"products_smiles": ["COC(=O)C(C(=O)OC)C(C(C)(C)C)(c1ccco1)/C(C(F)(F)F)=C(CC(C)C)(c1ccc(OC)cc1)"],"conditions": "Chiral Ligand, Base, Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(CC(C)C)=C(C(F)(F)F)C([Pd](OS(=O)(=O)C(F)(F)F)(P(c1ccc(F)cc1)c2ccc(F)cc2)(P(c1ccc(F)cc1)c2ccc(F)cc2))(C(C)(C)C)(c1ccco1)","step_weight": 0,"rationale": "Pd(0) undergoes oxidative addition to the allylic substrate due to the high reactivity of the allyl moiety and stabilization of the resulting π-allyl Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[CH-]C(=O)OC","step_weight": 0,"rationale": "The base deprotonates the methylene between two carbonyls, as the α-protons are strongly acidified by resonance stabilization of the resulting enolate."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "COC(=O)C(C(=O)OC)C(C(C)(C)C)(c1ccco1)/C1(C(F)(F)F)[Pd](P(c1ccc(F)cc1)c2ccc(F)cc2)(P(c1ccc(F)cc1)c2ccc(F)cc2)C1(CC(C)C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic π-allyl Pd complex, with chiral ligand control directing stereoselective C–C bond formation."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "COC(=O)C(C(=O)OC)C(C(C)(C)C)(c1ccco1)/C(C(F)(F)F)=C(CC(C)C)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Product dissociates as Pd–C bond breaks, driven by the stability of the neutral organic product and regeneration of the active Pd(0) catalyst."}],"description": "The Pd-catalyzed asymmetric allylation proceeds via oxidative addition of the allylic substrate to Pd(0), generating a π-allyl Pd complex. A base deprotonates the nucleophile, which then attacks the π-allyl complex in a stereocontrolled fashion, followed by product release and catalyst regeneration."}
